US08975261B2
1-[3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidin-1-yl]ethanone (RR4)
To a solution of 2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-3-(piperidin-3-yl)-1,5-naphthyridine (RR3) (12 mg, 0.03 mmol) in DMF (0.3 mL) was added acetyl chloride (0.006 mL, 0.09 mmol) and Hunig's Base (0.015 mL, 0.09 mmol). After five minutes, the mixture was purified directly by reverse phase chromatography (Waters Sunfire Prep C18 OBD, 5-60% acetonitrile in water with 0.1% TFA modifier) to afford the title compound. 1H NMR (500 MHz, DMSO): δ 8.78 (s, 1 H), 8.13 (s, 3 H), 7.64 (s, 1 H), 7.26 (m, 2 H), 4.50 (m, 2 H), 4.26 (brs, 2 H), 3.77 (s, 3 H), 3.49-3.40 (m, 2 H), 3.08 (m, 2 H), 2.27 (m, 2 H), 2.24-2.19 (m, 1 H), 2.05 (s, 3 H), 1.80 (s, 1 H), 1.23-1.15 (m, 2 H), 1.08 (dt, J=8.7, 4.6 Hz, 1 H); HRMS m/z (M+H) 433.2228 found, 433.2234 required.

reactant | 2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-3-(piperidin-3-yl)-1,5-naphthyridine | 0.03 mmol, 12 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1CNCCC1 | C23H26N4O2
reactant | acetyl chloride | 0.09 mmol, 0.006 mL | C(C)(=O)Cl | C2H3ClO
reactant | Hunig's Base | 0.09 mmol, 0.015 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 1-[3-(2-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-1,5-naphthyridin-3-yl)piperidin-1-yl]ethanone | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC2=CC=CN=C2C=C1C1CN(CCC1)C(C)=O | C25H28N4O3
